US07435837B2
(±)-[(N-methyl-1-[7-(2,3-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.137 g, 63%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2,3-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.283 g, 0.64 mmol) and methylamine (0.199 g, 6.42 mmol). mp 163-166° C.

reactant | (±)-[7-(2,3-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.64 mmol, 0.283 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C(=CC=C2)OC)OC | C24H24O6S
reactant | methylamine | 6.42 mmol, 0.199 g | CN | CH5N
product | N-methyl-1-[7-(2,3-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=C(C(=CC=C2)OC)OC | C18H21NO3
